US04795809
Benzyl 5-benzyloxycarbonylamino-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate
Benzyl N2 -(β-carboxyethyl)-N5 -benzyloxycarbonyl-3-hydroxyornithinate (227 mg, 0.51 mmol) in distilled acetonitrile (50 ml) was heated under reflux with recrystallised 2,2'-dipyridyl disulphide (135 mg, 0.61 mmol) and triphenylphosphine (160 mg, 0.61 mmol) for eight hours. The acetonitrile was removed under vacuum and the residue chromatographed over silica gel (Merck Art. 9385) repeatedly using the following solvents as eluants ether/ethanol (49:1), ethyl acetate/isopropyl alcohol (19:1) and hexane/acetone/isopropyl alcohol (8:8:1) to yield the slow-moving diastereoisomer of the title compound as an oil (217 mg, 64%) which slowly crystallised m.p. 66°-68° (ethyl acetate/hexane); [Rf 0.22 on thin layer chromatography, silica gel plates (Merck Art. 5719) eluting with dichloromethane/ethyl acetate/ethanol (60:10:1)]. νmax (KBr) 1725, 742, and 698 cm-1 ; δH (CDCl3, 250 MHz) 1.85 (2H, m), 2.98 (2H, t, J 4.2 Hz), 3.40 (4H, m), 4.09 (1H, d, J 3.3H), 4.17 (1H, m), 4.69 (1H, d, J4.1Hz) (exchanges with D2O), 5.10 (2H, s) 5.22 (3H, m) and 7.36 (10 H, m). [Found: C, 64.81; H, 6.12; N, 6.55 %; MH+ (p.i. F.A.B. thioglycerol) 427. C23H26N2O7 requires C, 64.77; H, 6.15; N, 6.57%; M, 426].

reactant | Benzyl N2 -(β-carboxyethyl)-N5 -benzyloxycarbonyl-3-hydroxyornithinate | 0.51 mmol, 227 mg | C(=O)(O)CCN[C@@H](C(CCNC(=O)OCC1=CC=CC=C1)O)C(=O)OCC1=CC=CC=C1 | C23H28N2O7
reactant | triphenylphosphine | 0.61 mmol, 160 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Benzyl 5-benzyloxycarbonylamino-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate | 217 mg, 64% | C(C1=CC=CC=C1)OC(=O)NCCC(C(C(=O)OCC1=CC=CC=C1)N1C(CC1)=O)O | C23H26N2O6
